US05843975
5.1. 2-[[(1-Methylethylidene)amino]oxy]-4-(phenylmethoxy)benzonitrile
A solution of 7.83 g (0.107 mol) of acetone oxime in 200 ml of dimethylformamide is stirred for 30 minutes in the presence of 12 g (0.11 mol) of 95% potassium t-butanolate. A solution of 20.3 g (0.089 mol) of 2-fluoro-4-(phenylmethoxy)benzonitrile in 100 ml of dimethylformamide is then added over 15 minutes. The mixture is stirred for 2 hours and then poured into ice-water. The crystalline product is filtered off and dissolved in dichloromethane, and the solution is then dried over sodium sulphate and concentrated under reduced pressure. 21.2 g of product are obtained.

reactant | acetone oxime | 0.107 mol, 7.83 g | CC(C)=NO | C3H7NO
reactant | potassium t-butanolate | 0.11 mol, 12 g | C(C)(C)(C)[O-].[K+]
reactant | 2-fluoro-4-(phenylmethoxy)benzonitrile | 0.089 mol, 20.3 g | FC1=C(C#N)C=CC(=C1)OCC1=CC=CC=C1 | C14H10FNO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[[(1-Methylethylidene)amino]oxy]-4-(phenylmethoxy)benzonitrile | 21.2 g | CC(C)=NOC1=C(C#N)C=CC(=C1)OCC1=CC=CC=C1 | C17H16N2O2
